US04382090
A reaction mixture was prepared containing 95.2 g. of 4-dimethylaminobutyronitrile, 134.3 g. of pyridine, 257.6 g. of triethylamine and 113 g. of H2S. The reaction mixture was placed in an autoclave and the autoclave shaken for about 16 hours at 55° C. The reaction mixture was then removed from the autoclave and the volatile constituents removed by evaporation in vacuo. The resulting residue comprising 4-dimethylaminothiobutyramide formed in the above reaction was digested with about 1.5 l. of boiling ethyl acetate. The mixture thus produced was filtered through cellulose (hyflo supercel). The filtrate was concentrated until crystals appeared. The crystals were separated by filtration and the separated crystals washed with ethyl acetate. Sixty grams of 4-dimethylaminothiobutyramide melting at about 77° C. were obtained.

reactant | 4-dimethylaminobutyronitrile | CN(CCCC#N)C | C6H12N2
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | H2S | S | H2S
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 4-dimethylaminothiobutyramide | CN(CCCC(=S)N)C | C6H14N2S
